US06514981B1
6-(3-Trifluoroacetamidophenyl)-2-oxindole (O-60)
2-[2-Nitro-4-(3-trifluoroacetamidophenyl)phenyl]acetic acid (100 mg) and 50 mg of iron powder in 3 mL of acetic acid was heated to 100° C. for 2 hours. The reaction mixture was concentrated and the residue sonicated in 5 mL of ethyl acetate. The insoluble solids were removed by vacuum filtration and the filtrate washed with 1 N hydrochloric acid, water and brine, dried over anhydrous sodium sulfate and concentrated to give 10 mg (14% yield) of the title compound as a rose-colored solid.

reactant | 2-[2-Nitro-4-(3-trifluoroacetamidophenyl)phenyl]acetic acid | 100 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C1=CC(=CC=C1)NC(C(F)(F)F)=O)CC(=O)O | C16H11F3N2O5
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 50 mg | [Fe] | Fe
product | 6-(3-Trifluoroacetamidophenyl)-2-oxindole | 10 mg, 14% yield | FC(C(=O)NC=1C=C(C=CC1)C1=CC=C2CC(NC2=C1)=O)(F)F | C16H11F3N2O2
